US06734302B2
Hydrogen chloride gas was passed through a solution of 2-cyclopentyloxy-4-methoxy-benzonitrile (0.12 g, 0.55 mmol) in absolute ethanol (15 mL) in a pressure tube for 1 h at 0° C. The tube was sealed and stirred at room temperature for 3 d. Evaporation of the solvents and trituration of the residue in diethyl ether gave ethyl 2-cyclopentyloxy-4-methoxy-benzimidate hydrochloride (0.17 g, 100%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 2-cyclopentyloxy-4-methoxy-benzonitrile | 0.55 mmol, 0.12 g | C1(CCCC1)OC1=C(C#N)C=CC(=C1)OC | C13H15NO2
reactant | ethanol | 15 mL | C(C)O | C2H6O
product | ethyl 2-cyclopentyloxy-4-methoxy-benzimidate hydrochloride | 0.17 g, 100% | Cl.C1(CCCC1)OC1=C(C(OCC)=N)C=CC(=C1)OC | InChI=1S/C15H21NO3.ClH/c1-3-18-15(16)13-9-8-12(17-2)10-14(13)19-11-6-4-5-7-11;/h8-11,16H,3-7H2,1-2H3;1H
